US07319104B2
Reductive amination of 2-(4-methoxyphenyl)-2-methylpropan-1-amine (500 mg; 2.79 mmol) with 4-(trifluoromethyl)benzaldehyde (0.38 ml; 2.79 mmol) as per general procedure A afforded N-[2-(4-methoxyphenyl)-2-methylpropyl]-N-[4-(trifluoromethyl)benzyl]amine (792 mg; 84% yield).

reactant | 2-(4-methoxyphenyl)-2-methylpropan-1-amine | 2.79 mmol, 500 mg | COC1=CC=C(C=C1)C(CN)(C)C | C11H17NO
reactant | 4-(trifluoromethyl)benzaldehyde | 2.79 mmol, 0.38 ml | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | N-[2-(4-methoxyphenyl)-2-methylpropyl]-N-[4-(trifluoromethyl)benzyl]amine | 792 mg, 84% yield | COC1=CC=C(C=C1)C(CNCC1=CC=C(C=C1)C(F)(F)F)(C)C | C19H22F3NO
